US05468897
(a) methyl 3-(1-adamantyl)-4-(dimethylaminothiocarbonyloxy)benzoate
Into a round bottom flask, there are introduced 2.4 g (0.08 mole) of sodium hydride (80% in oil) and 250 ml of DMF. Under a nitrogen current, there are slowly added 22.9 g (0.08 g mole) of methyl 3-(1-adamantyl)-4-hydroxybenzoate. The mixture is stirred until the cessation of gaseous emission. There are then added, all at once, 12.9 g (0.104 mole) of dimethylthiocarbamoyl chloride and the mixture is stirred for 16 hours at ambient temperature. The reaction medium is poured into water and extracted with ethyl ether. The organic phase is decanted, dried on magnesium sulfate and evaporated. The resulting residue is purified by chromatography on a silica column eluted with a 70:30 mixture of dichloromethane and hexane. After evaporation of the solvents, 1.8 g (63% yield) of the expected product having a melting point of 174°-175° C. are recovered.

reactant | sodium hydride | 0.08 mole, 2.4 g | [H-].[Na+]
reactant | DMF | 250 ml | CN(C)C=O | C3H7NO
reactant | methyl 3-(1-adamantyl)-4-hydroxybenzoate | 22.9 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)OC)C=CC2O | C18H22O3
reactant | dimethylthiocarbamoyl chloride | 0.104 mole, 12.9 g | CN(C(=S)Cl)C | C3H6ClNS
solvent | water | O | H2O
product | methyl 3-(1-adamantyl)-4-(dimethylaminothiocarbonyloxy)benzoate | 1.8 g, 63% yield | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)OC)C=CC2OC(=S)N(C)C | C21H27NO3S
